** sch_path: /media/sf_LNA_chipathon/The-Silent-Owl-GF180MCU-WB-LNA/NFmin_Simulation/simulations/10v0/nfmin_jd_nmos_10.sch
**.subckt nfmin_jd_nmos_10
VGS vgdc GND {VBIAS}
VDD vdcbias GND {VDS}
LDD d vdcbias 1u m=1
COUT d out 10p m=1
CIN in g 10p m=1
V1 in GND DC 0 AC 1 0 portnum 1 z0 50
V2 out GND DC 0 AC 1 0 portnum 2 z0 50
LDD1 g vgdc 10u m=1
XM1 d g GND GND nfet_10v0_asym L={L} W={W} nf=1 ad='W * 1.48u' as='W * 0.48u' pd='2 * (W + 1.48u)' ps='2 * (W + 0.48u)' nrd=0 nrs=0
+ sa=0 sb=0 sd=0 m=1
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice

.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice diode_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/smbb000149.ngspice typical

.include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_io/spice/gf180mcu_fd_io.spice



.option savecurrents

.param fnoicor=0
.param sw_stat_mismatch=0

.param VDS=5.0
.param VBIAS=0.9

.param W=4.00e-6
.param L=0.60e-6

.control
  set noaskquit

  echo VDS_set_V W_m L_m VBIAS_set_V VGS_actual_V VDS_actual_V VBS_actual_V ID_A JD_mA_per_um Pdc_mW gm_S gds_S gm_ID_1_per_V ro_Ohm gmro inv_gm_Ohm NFmin_dB NF_dB Rn_Ohm SOpt_real SOpt_imag SOpt_mag > nmos10_cs_full_nom5v.txt

  foreach vdsval 5.0

    foreach wval 4e-6 5e-6 10e-6 20e-6 50e-6

      foreach lval 0.60e-6 0.70e-6 1.00e-6

        setplot const
        let k = 0

        while k <= 400

          setplot const
          let vgs = 0.50 + 0.005*k

          alterparam VDS = $vdsval
          alterparam W = $wval
          alterparam L = $lval
          alterparam VBIAS = $&vgs
          reset

          op

          let idn_tmp = abs(i(vdd))
          let jd_tmp = 1e-3*idn_tmp/$wval
          let pdc_tmp = 1e3*idn_tmp*$vdsval

          let vgs_tmp = v(g)
          let vds_tmp = v(d)
          let vbs_tmp = 0

          let gm_tmp = @m.xm1.m0[gm]
          let gds_tmp = @m.xm1.m0[gds]

          let gm_id_tmp = gm_tmp/idn_tmp
          let ro_tmp = 1/gds_tmp
          let gmro_tmp = gm_tmp/gds_tmp
          let inv_gm_tmp = 1/gm_tmp

          set idn_op = $&idn_tmp
          set jd_op = $&jd_tmp
          set pdc_op = $&pdc_tmp
          set vgs_op = $&vgs_tmp
          set vds_op = $&vds_tmp
          set vbs_op = $&vbs_tmp
          set gm_op = $&gm_tmp
          set gds_op = $&gds_tmp
          set gm_id_op = $&gm_id_tmp
          set ro_op = $&ro_tmp
          set gmro_op = $&gmro_tmp
          set inv_gm_op = $&inv_gm_tmp

          destroy $curplot

          sp lin 1 2.4e9 2.4e9 1

          let nfmin_val = real(NFmin)
          let nf_val = real(NF)
          let rn_val = real(Rn)
          let sopt_re = real(SOpt)
          let sopt_im = imag(SOpt)
          let sopt_mag = sqrt(sopt_re*sopt_re + sopt_im*sopt_im)

          echo $vdsval $wval $lval $&vgs $vgs_op $vds_op $vbs_op $idn_op $jd_op $pdc_op $gm_op $gds_op $gm_id_op $ro_op $gmro_op $inv_gm_op $&nfmin_val $&nf_val $&rn_val $&sopt_re $&sopt_im $&sopt_mag >> nmos10_cs_full_nom5v.txt

          destroy $curplot

          setplot const
          let k = k + 1

        end

      end

    end

  end

.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
